US03965168
To this solution of sodium-3-carbamoyl-3,4-epoxybutyrate was added a 5 molal aqueous solution of NaCN in proportions of 3 mols per mol of sodium-3-carbamoyl-3,4-epoxybutyrate. The system was agitated for about 4 hours at 35°-40°C. The yield to sodium-3-carbamoyl-3-hydroxy-4-cyanobutyrate was virtually quantitative as determined by NMR.

reactant | sodium 3-carbamoyl-3,4-epoxybutyrate | [Na].C(N)(=O)C1(CC(=O)[O-])CO1
reactant | NaCN | [C-]#N.[Na+]
product | sodium 3-carbamoyl-3-hydroxy-4-cyanobutyrate | [Na].C(N)(=O)C(CC(=O)[O-])(CC#N)O | InChI=1S/C6H8N2O4.Na/c7-2-1-6(12,5(8)11)3-4(9)10;/h12H,1,3H2,(H2,8,11)(H,9,10);/p-1
